US06875784B2
A solution of bromoform (0.94 mL, 10.8 mmol) in 5 mL of dichloromethane was added over 1.5 hours to a stirred solution of benzyl 3-pyrroline-1-carboxylate (1.77 mL, 9.8 mmol) and benzyltriethylammonium chloride (0.055 g, 0.025 mmol) in 1:1 dichloromethane-50% aqueous NaOH (60 mL). The black solution was stirred for 18 hours at room temperature and then diluted with dichloromethane and H2O. The layers were separated and the organic phase washed with satd NH4Cl, brine, and dried (MgSO4), filtered and concentrated. The crude product was purified by column chromatography (0-20% ethyl acetate-hexane) to afford 6,6-dibromo-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid benzyl ester.

reactant | bromoform | 10.8 mmol, 0.94 mL | C(Br)(Br)Br | CHBr3
reactant | benzyl 3-pyrroline-1-carboxylate | 9.8 mmol, 1.77 mL | N1(CC=CC1)C(=O)OCC1=CC=CC=C1 | C12H13NO2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | benzyltriethylammonium chloride | 0.025 mmol, 0.055 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | H2O | O | H2O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 6,6-dibromo-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2C(C2C1)(Br)Br | C13H13Br2NO2
